US07777031B2
[6-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(4-isopropyl-piperazin-1-yl)-methanone
To a solution of 5-bromo-2-(3,4-dichloro-phenoxy)-pyridine (0.303 g, 0.949 mmol) in THF (4 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 0.30 mL, 2.0 mmol), cyclopropyl piperazine (0.30 mL, 2.4 mmol), trans-di-m-acetatobis[2-(di-o-tolylphosphino)benzyl]di-palladium (II) (Hermann's catalyst; 36.7 mg, 0.039 mmol), t-BuPHBF4+ (17.4 mg, 0.060 mmol), and Mo(CO)6 (301 mg, 1.14 mmol). The reaction mixture was heated in the microwave for 6 min at 125° C., cooled to rt, then concentrated. Purification by FCC gave the desired product (284 mg, 76%). MS (ESI): mass calcd. for C19H21C12N3O2, 393.10; m/z found, 394.7 [M+H]+. 1H NMR (CDCl3): 8.24 (dd, J=2.5, 0.8 Hz, 1H), 7.83 (dd, J=8.3, 2.5 Hz, 1H), 7.47 (d, J=8.8 Hz, 1H), 7.30 (d, J=2.8 Hz, 1H), 7.03 (dd, J=8.8, 2.5 Hz, 1H), 7.00 (dd, J=8.3, 0.8 Hz, 1H), 3.90-3.40 (br m, 4H), 2.74 (h, J=6.8 Hz, 1H), 2.64-2.43 (br m, 4H), 1.04 (d, J=7.1 Hz, 6H).

reactant | 5-bromo-2-(3,4-dichloro-phenoxy)-pyridine | 0.949 mmol, 0.303 g | BrC=1C=CC(=NC1)OC1=CC(=C(C=C1)Cl)Cl | C11H6BrCl2NO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.0 mmol, 0.30 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | cyclopropyl piperazine | 2.4 mmol, 0.30 mL | C1(CC1)N1CCNCC1 | C7H14N2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
product | [6-(3,4-Dichloro-phenoxy)-pyridin-3-yl]-(4-isopropyl-piperazin-1-yl)-methanone | 284 mg, 76% | ClC=1C=C(OC2=CC=C(C=N2)C(=O)N2CCN(CC2)C(C)C)C=CC1Cl | C19H21Cl2N3O2
